US04377580
A mixture of dimethyl [[6-(3-cyclopentylpropionamido)-4-quinazolinylamino]methylene]propanedioate (6.9 g) in diphenyl ether (53 ml) was stirred at 255° C. for 15 minutes and cooled to ambient temperature. The resulting solid was collected, washed with hexane and dried. There was obtained methyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (4.5 g).

reactant | dimethyl [[6-(3-cyclopentylpropionamido)-4-quinazolinylamino]methylene]propanedioate | 6.9 g | C1(CCCC1)CCC(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OC)C(=O)OC | C22H26N4O5
solvent | diphenyl ether | 53 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | methyl 4-oxo-10-(3-cyclopentylpropionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 4.5 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(CCC2CCCC2)=O)C(=O)OC | C21H22N4O4
